US03998843
A solution of cis-2-(3-hydroxyphenyl)-1-pyrrolidinocyclohexane (0.6g) in ethylmethyl ketone was cooled in an ice/water bath and methyl bromide (1.5 ml) was added. The flask was tightly stoppered and set aside at room temperature for 72 hours. The solid (0.7g) was collected and recrystallised from ethyl acetate/ethanol to give cis-2-(3-hydroxyphenyl)-1-pyrrolidinocyclohexane methobromide (0.4g) m.p. 189° to 192° C.

reactant | cis-2-(3-hydroxyphenyl)-1-pyrrolidinocyclohexane | 0.6g | OC=1C=C(C=CC1)[C@@H]1[C@@H](CCCC1)N1CCCC1 | C16H23NO
reactant | methyl bromide | 1.5 ml | CBr | CH3Br
solvent | ethylmethyl ketone | C(C)C(=O)C | C4H8O
product | cis-2-(3-hydroxyphenyl)-1-pyrrolidinocyclohexane methobromide | 0.4g | C[N+]1(CCCC1)[C@@H]2CCCC[C@@H]2C3=CC(=CC=C3)O.[Br-] | InChI=1S/C17H25NO.BrH/c1-18(11-4-5-12-18)17-10-3-2-9-16(17)14-7-6-8-15(19)13-14;/h6-8,13,16-17H,2-5,9-12H2,1H3;1H/t16-,17-;/m1./s1
